US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (50 mg, 0.287 mmol), 2-amino-4,4,4-trifluorobutanamide hydrochloride (50 mg, 0.259 mmol) and DIEA (0.150 mL, 0.862 mmol) in NMP (1 mL) was stirred at room temperature for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give 2-(6-chloro-5-cyanopyrazin-2-ylamino)-4,4,4-trifluorobutanamide (67 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.287 mmol, 50 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | 2-amino-4,4,4-trifluorobutanamide hydrochloride | 0.259 mmol, 50 mg | Cl.NC(C(=O)N)CC(F)(F)F
reactant | DIEA | 0.862 mmol, 0.150 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-chloro-5-cyanopyrazin-2-ylamino)-4,4,4-trifluorobutanamide | 67 mg | ClC1=C(N=CC(=N1)NC(C(=O)N)CC(F)(F)F)C#N | C9H7ClF3N5O
